US04678781
The starting material may be prepared by reaction of ethyl 2-(2-tritylaminothiazol-4-yl)-2-((Z)-bromoethoxyimino)acetate (UK Patent Application No. 2017702) with t-butyl 2-mercaptobenzoate and hydrolysis of the resulting ester to give 2-(2-tritylaminothiazol-4-yl)-2-[(Z)-2-(2-t-butoxycarbonylphenylthio)ethoxyimino]acetic acid, n.m.r. in solvent C: 1.6(s, 9H); 3.3(t, 2H); 4.4(t, 2H); 6.67(s, 1H); 7.0-8.0(m, 4H); 7.34(s, 15H).

reactant | ethyl 2-(2-tritylaminothiazol-4-yl)-2-((Z)-bromoethoxyimino)acetate | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)/C(/C(=O)OCC)=N/OCCBr | C28H26BrN3O3S
reactant | t-butyl 2-mercaptobenzoate | SC1=C(C(=O)OC(C)(C)C)C=CC=C1 | C11H14O2S
product | 2-(2-tritylaminothiazol-4-yl)-2-[(Z)-2-(2-t-butoxycarbonylphenylthio)ethoxyimino]acetic acid | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)/C(/C(=O)O)=N/OCCSC1=C(C=CC=C1)C(=O)OC(C)(C)C | C37H35N3O5S2
